US04072756
4-[4-(6,11-dihydrodibenzo[b,e]thiepin-11-ylidene)piperidino]-2-butanone
A solution of 2.8 g of methylvinylketone in 5 cc of ethanol is added dropwise within 2 minutes to a solution of 7.8 g of 4-(6,11-dihydrodibenzo[b,e]thiepin-11-ylidene)piperidine [M.P. of the fumarate 245°-247°, produced in a manner analogous to that described in Example 9(a), from 4-(6,11-dihydrodibenzo[b,e]thiepin-11-ylidene)-1-methylpiperidine] in 25 cc of ethanol. The reaction mixture is heated at reflux for 1 hour, is then completely concentrated at reduced pressure, and the oily residue, the title compound, is converted into the hydrogen fumarate form. M.P. 180°-182° (decomp.) from ethanol.

reactant | methylvinylketone | 2.8 g | CC(=O)C=C | C4H6O
reactant | 4-(6,11-dihydrodibenzo[b,e]thiepin-11-ylidene)piperidine | 7.8 g | C1=CC=CC=2SCC3=C(C(C21)=C2CCNCC2)C=CC=C3 | C19H19NS
reactant | fumarate | C(\C=C\C(=O)[O-])(=O)[O-]
reactant | 4-(6,11-dihydrodibenzo[b,e]thiepin-11-ylidene)-1-methylpiperidine | C1=CC=CC=2SCC3=C(C(C21)=C2CCN(CC2)C)C=CC=C3 | C20H21NS
solvent | ethanol | 5 cc | C(C)O | C2H6O
solvent | ethanol | 25 cc | C(C)O | C2H6O
product | 4-[4-(6,11-dihydrodibenzo[b,e]thiepin-11-ylidene)piperidino]-2-butanone | C1=CC=CC=2SCC3=C(C(C21)=C2CCN(CC2)CCC(C)=O)C=CC=C3 | C23H25NOS
